US09428509B2
(S)-6-(2-Chloro-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole
To a solution of 6-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), (S)-tetrahydrofuran-3-ol (1.1 equiv) in 1,4-dioxane (0.2 M) was added sodium tert-butoxide (1.1 equiv). The reaction was stirred at 75° C. for 5 h. The reaction mixture was quenched with saturated aqueous sodium chloride and then washed with ethyl acetate. The organic phase was combined and washed with saturated aqueous sodium chloride. The organic layer was dried (magnesium sulfate), filtered, and concentrated. The crude was purified by silica gel column chromatography (0-90%) ethyl acetate in hexane) to give the title compound (90% yield) as yellow solid; 1H NMR (400 MHz, DMSO-d6) δ ppm −0.07 (s, 9H) 0.84-0.90 (m, 2H) 1.99-2.10 (m, 1H) 2.26 (dtd, J=13.96, 8.25, 8.25, 6.25 Hz, 1H) 2.63 (s, 3H) 3.53-3.62 (m, 2H) 3.73-3.81 (m, 2H) 3.84 (d, J=10.54 Hz, 1H) 3.93 (dd, J=10.54, 4.30 Hz, 1H) 5.57 (s, 2H) 5.72-5.80 (m, 1H) 7.59-7.64 (m, 1H) 7.66 (d, J=8.59 Hz, 1H) 7.89 (s, 1H) 7.91 (d, J=0.78 Hz, 1H); MS (ESI) m/z 501.1 [M+1]+.

reactant | 6-(2,4-dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)Cl | C20H22Cl2N4O2Si
reactant | (S)-tetrahydrofuran-3-ol | 1.1 equiv | O1C[C@H](CC1)O | C4H8O2
reactant | sodium tert-butoxide | 1.1 equiv | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 0.2 M | O1CCOCC1 | C4H8O2
product | (S)-6-(2-Chloro-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 90% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)O[C@@H]2COCC2 | C24H29ClN4O4Si
